US06307087B1
Synthesis of 2-bromo-4′-(trifluoromethyl)biphenyl
An oven dried Schlenk tube was evacuated and backfilled with argon and charged with tetrakis(triphenylphosphine)palladium (289 mg, 0.25 mmol, 5.0 mol %), 2-bromoiodobenzene (0.83 mL, 6.50 mmol), 4-(trifluoromethyl)phenylboronic acid (950 mg, 5.0 mmol), and sodium carbonate (2.86 g, 27.0 mmol). The tube was evacuated and backfilled with argon. To the tube was added (degassed) dimethoxyethane (45 mL), ethanol (2 mL), and water (15 mL) through a rubber septum. The reaction mixture was heated to 85° C. with stirring for 32 hours. The reaction mixture was then diluted with 2:1 hexane/ethyl acetate (100 mL) and poured into a separatory funnel. The mixture was washed with water (80 mL), and brine (80 mL). The organic layer was dried over anhydrous sodium sulfate, decanted, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel to afford 1.01 g (67%) of the product.

reactant | 2-bromoiodobenzene | 6.50 mmol, 0.83 mL | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | 4-(trifluoromethyl)phenylboronic acid | 5.0 mmol, 950 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 27.0 mmol, 2.86 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.25 mmol, 289 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-bromo-4′-(trifluoromethyl)biphenyl | 1.01 g, 67% | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C13H8BrF3
